US07435815B2
2-[(4-Acetyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-ethyl-N-pyridin-2-ylmethyl-acetamide
A solution of 2-(3-dimethylamino-phenylamino)-N-ethyl-N-pyridin-2-ylmethyl-acetamide (2.50 mmol) and of DIPEA (5.00 mmol) in THF (10 mL) was added to a solution of 4-acetyl-benzenesulfonyl chloride (2.50 mmol) in THF (10 mL). The reaction mixture was stirred for 2 h, the solvents were removed and the residue was purified by preparative HPLC chromatography to give 451 mg (0.91 mmol, 36%) product as a brownish foam.

reactant | 2-(3-dimethylamino-phenylamino)-N-ethyl-N-pyridin-2-ylmethyl-acetamide | 2.50 mmol | CN(C=1C=C(C=CC1)NCC(=O)N(CC1=NC=CC=C1)CC)C | C18H24N4O
reactant | DIPEA | 5.00 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-acetyl-benzenesulfonyl chloride | 2.50 mmol | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[(4-Acetyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-ethyl-N-pyridin-2-ylmethyl-acetamide | 0.91 mmol, 451 mg, 36% | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC1=NC=CC=C1)CC)C1=CC(=CC=C1)N(C)C | C26H30N4O4S
